US05877199
(9-Benzyl-4-methyl-1-methylthiocarbazol-2-yl)acetic acid
50 ml of ethanol and 50 ml of a 2N aqueous solution of sodium hydroxide was added to 1.16 g of benzyl (9-benzyl-4-methyl-1-methylthiocarbazol-2-yl)acetate, as obtained in Example 13a). The reaction mixture was stirred for 2 hours at room temperature, after which time it was acidified by adding a 1N aqueous solution of hydrochloric acid and then concentrated by evaporation under reduced pressure. Ethyl acetate was added to the residue thus obtained. The aqueous layer was extracted with ethyl acetate and the organic extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The resulting residue was subjected to column chromatography using 20 g of silica gel with a 1:1 v/v mixture of hexane and ethyl acetate as the eluent, and then recrystallized from ethyl acetate and hexane, to yield 0.90 g of the title compound, melting at 219°-220° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzyl (9-benzyl-4-methyl-1-methylthiocarbazol-2-yl)acetate | 1.16 g | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC(=C(C12)SC)CC(=O)OCC1=CC=CC=C1)C | C30H27NO2S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (9-Benzyl-4-methyl-1-methylthiocarbazol-2-yl)acetic acid | 0.90 g | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC(=C(C12)SC)CC(=O)O)C | C23H21NO2S
